US05073550
A suspension of 4.00 g of (7R)-7-aminocephalosporanic acid and 3.34 g of 5-mercapto-7-methylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid in 20 ml of acetonitrile was treated with 25 ml of a 20 percent solution of boron trifluoride in acetonitrile and the mixture was stirred at 20° for 1.5 hours. 150 ml of cold water were added and the mixture was stirred at 0° for 1.5 hours. The precipitate was filtered off under suction and dried. There was obtained (6R,7R)-7-amino-3-[[(3-carboxy-7-methylpyrazolo[1,5-a]pyri-midine-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid as an almost colorless powder.

reactant | (7R)-7-aminocephalosporanic acid | 4.00 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 5-mercapto-7-methylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 3.34 g | SC1=NC=2N(C(=C1)C)N=CC2C(=O)O | C8H7N3O2S
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | water | 150 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (6R,7R)-7-amino-3-[[(3-carboxy-7-methylpyrazolo[1,5-a]pyri-midine-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=2N(C(=C1)C)N=CC2C(=O)O | C16H15N5O5S2
